US07169791B2
3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-N-[5-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl]benzamide
Utilising the procedure described in example 1, but employing 3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid in lieu of 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid and 5-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzenamine in lieu of furfurylamine, afforded the title compound as as pale-yellow crystalline solid, m.p. 264–266° C.

reactant | 3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid | N1=CC(=CC=C1)C1=NC(=NC=C1)NC=1C=C(C(=O)O)C=CC1 | C16H12N4O2
reactant | 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C17H14N4O2
reactant | 5-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzenamine | CC=1N=CN(C1)C=1C=C(C=C(C1)N)C(F)(F)F | C11H10F3N3
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
product | 3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-N-[5-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl]benzamide | N1=CC(=CC=C1)C1=NC(=NC=C1)NC=1C=C(C(=O)NC2=CC(=CC(=C2)N2C=NC(=C2)C)C(F)(F)F)C=CC1 | C27H20F3N7O
